US05352684
L. 3-Acetyl-5-tert-butoxycarbonyl-1,4-dihydro-2[4-(4,4-diphenyl-1-piperidinyl)butyl ]-4(2,3-dichlorophenyl)-6-methyl-pyridine hydrochloride
5.6 g (12.2 mmol) 3-acetyl-5-tert-butoxycarbonyl-1,4-dihydro-4-(2,3-dichlorophenyl)-2-(4-chlorobutyl)-6-methyl-pyridine are reacted first with 3.6 g (24.4 mmol) sodium iodide, as described for starting compound B, and then with 6 g (21 mmol) 4,4-diphenylpiperidine hydrochloride. Working up is carried out as described for starting compound B. The crude product is chromatographed with toluene/acetone=8/2. The product thus obtained is taken up in 30 ml isopropanol. The title compound is precipitated by addition of ethereal hydrochloric acid. Yield: 5.2 g (60%). M.p. 154°-156° C. decomp. (acetonitrile).

reactant | 3-acetyl-5-tert-butoxycarbonyl-1,4-dihydro-4-(2,3-dichlorophenyl)-2-(4-chlorobutyl)-6-methyl-pyridine | 12.2 mmol, 5.6 g | C(C)(=O)C1=C(NC(=C(C1C1=C(C(=CC=C1)Cl)Cl)C(=O)OC(C)(C)C)C)CCCCCl | C23H28Cl3NO3
reactant | sodium iodide | 24.4 mmol, 3.6 g | [I-].[Na+]
reactant | 4,4-diphenylpiperidine hydrochloride | 21 mmol, 6 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 3-Acetyl-5-tert-butoxycarbonyl-1,4-dihydro-2[4-(4,4-diphenyl-1-piperidinyl)butyl ]-4(2,3-dichlorophenyl)-6-methyl-pyridine hydrochloride | Cl.C(C)(=O)C1=C(NC(=C(C1C1=C(C(=CC=C1)Cl)Cl)C(=O)OC(C)(C)C)C)CCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C40H46Cl2N2O3.ClH/c1-27-34(38(46)47-39(3,4)5)36(31-19-14-20-32(41)37(31)42)35(28(2)45)33(43-27)21-12-13-24-44-25-22-40(23-26-44,29-15-8-6-9-16-29)30-17-10-7-11-18-30;/h6-11,14-20,36,43H,12-13,21-26H2,1-5H3;1H
